US07091201B2
A solution of crude 2-thiophen-2-yl-ethanesulfonyl chloride (25 g) in THF (400 ml) was treated with sat. aq. ammonia (60 ml) at 0° C. The mixture was stirred at rt for 16 h before it was neutralised with 25% aq. HCl (60 ml). Bulk of the THF was evaporated. The aq. solution was extracted twice with EA. The organic phase was washed with water and evaporated. The remaining oil was purified by chromatography on silica gel eluting with heptane:EA 1:1. The product was further purified by recrystallisation from diethyl ether/pentane to give 2-thiophen-2-yl-ethanesulfonic acid amide (8.46 g) as off-white crystals. 1H-NMR (300 MHz, CDCl3): 3.36–3.50(m, 4H), 4.54(s br, 2H), 6.89–6.92(m, 1H), 6.95(dd, J=3.5, 5.1, 1H), 7.20(dd, J=1.1, 5.0, 1H).

reactant | 2-thiophen-2-yl-ethanesulfonyl chloride | 25 g | S1C(=CC=C1)CCS(=O)(=O)Cl | C6H7ClO2S2
reactant | ammonia | 60 ml | N | H3N
reactant | HCl | 60 ml | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 2-thiophen-2-yl-ethanesulfonic acid amide | 8.46 g | S1C(=CC=C1)CCS(=O)(=O)N | C6H9NO2S2
